US09284308B2
6-Bromo-4-(difluoromethoxy)-3-(pyrimidin-5-ylmethyl)quinolin-2-ol
A mixture of 6-bromo-4-hydroxy-3-(pyrimidin-5-ylmethyl)quinolin-2(1H)-one (0.5 g, 1.51 mmol, Intermediate 49: step a) methyl 2-chloro-2,2-difluoroacetate (0.24 mL, 2.26 mmol) and K2CO3 (0.52 mg, 3.76 mmol) in DMF (0.6 mL) was stirred at 80° C. for 2 hours, cooled to room temperature, diluted with H2O and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried, filtered, evaporated in-vacuo and purified by chromatography (0-10% MeOH in DCM, gradient) to provide the title compound.

reactant | 6-bromo-4-hydroxy-3-(pyrimidin-5-ylmethyl)quinolin-2(1H)-one | BrC=1C=C2C(=C(C(NC2=CC1)=O)CC=1C=NC=NC1)O | C14H10BrN3O2
reactant | methyl 2-chloro-2,2-difluoroacetate | 2.26 mmol, 0.24 mL | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | K2CO3 | 3.76 mmol, 0.52 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 6-Bromo-4-(difluoromethoxy)-3-(pyrimidin-5-ylmethyl)quinolin-2-ol | BrC=1C=C2C(=C(C(=NC2=CC1)O)CC=1C=NC=NC1)OC(F)F | C15H10BrF2N3O2
